### PR TITLE
fix(ErdosProblems/859): make density vary in `t`

### LINKED ISSUE #1542: Erdős Problem #859
https://github.com/google-deepmind/formal-conjectures/blob/234baea1a3a51f6f16689b06e9f77a1af8fcd552/FormalConjectures/ErdosProblems/859.lean#L52-L54 is missing the condition that $t\ge 1$ which is recorded in the problem statement at https://www.erdosproblems.com/forum/thread/859

### Choose either option
- [ ] I plan on working on this issue
- [x] This issue is up for grabs: I would like to see this misformalization fixed by somebody else

### PR DESCRIPTION
**Pull request by mo271**
- The LHS of the previous version was a constant function within the asymptotic equivalence. It needs to vary with t.
- Fix typing of some constants which were previously inferred as Nat

Closes #1542

### CODE REVIEW

File: FormalConjectures/ErdosProblems/859.lean [hunk 1]
```diff
@@ -37,9 +37,9 @@ The density `dₜ` of `DivisorSumSet (t : ℕ)` is bounded from below by `1 / lo
 from above by `1 / log (t) ^ c₄` for some positive constants `c₃` and `c₄`.
 -/
 @[category research solved, AMS 11]
-theorem erdos_859.variants.erdos_upper_lower_bounds : ∃ᵉ (c₃ > 0) (c₄ > 0) (t₀ : ℕ), ∀ t > t₀,
-    ∃ dₜ : ℝ, ((DivisorSumSet t).HasDensity dₜ) ∧
-    (1 / (Real.log t)^c₃ < dₜ) ∧ (dₜ < 1 / (Real.log t)^c₄) := by
+theorem erdos_859.variants.erdos_upper_lower_bounds : ∃ᵉ (c₃ > (0 : ℝ)) (c₄ > (0 : ℝ)) (t₀ : ℕ),
+    ∀ t > t₀, ∃ dₜ : ℝ, ((DivisorSumSet t).HasDensity dₜ) ∧
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/859.lean]:
```suggestion
    ∀\^f t in atTop, ∃ dₜ : ℝ, (DivisorSumSet t).HasDensity dₜ ∧
```

File: FormalConjectures/ErdosProblems/859.lean [hunk 2]
```diff
@@ -37,9 +37,9 @@ The density `dₜ` of `DivisorSumSet (t : ℕ)` is bounded from below by `1 / lo
...
+    (1 / (Real.log t) ^ c₃ < dₜ) ∧ (dₜ < 1 / (Real.log t) ^ c₄) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/859.lean]:
```suggestion
    1 / Real.log t ^ c₃ < dₜ ∧ dₜ < 1 / Real.log t ^ c₄ := by
```

File: FormalConjectures/ErdosProblems/859.lean [hunk 3]
```diff
@@ -49,8 +49,9 @@ The density `dₜ` of `DivisorSumSet (t : ℕ)` is assymptotically equivalent to
 for some positive constants `c₁` and `c₂`.
 -/
 @[category research open, AMS 11]
-theorem erdos_859 (t : ℕ) : ∃ c₁ > 0, ∃ c₂ > 0, ∃ dₜ : ℝ, ((DivisorSumSet t).HasDensity dₜ) ∧
-    (fun (t : ℕ) ↦ dₜ) ~[atTop] (fun t ↦ c₁ / (Real.log t)^c₂ ) := by
+theorem erdos_859 :
+    ∃ c₁ > 0, ∃ c₂ > (0 : ℝ), ∃ d : ℕ → ℝ, (∀ t > 0, ((DivisorSumSet t).HasDensity (d t))) ∧
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/859.lean]:
```suggestion
    ∃ c₁ > 0, ∃ c₂ > (0 : ℝ), ∃ d : ℕ → ℝ, (∀ t > 0, (DivisorSumSet t).HasDensity (d t)) ∧
```

File: FormalConjectures/ErdosProblems/859.lean [hunk 4]
```diff
@@ -49,8 +49,9 @@ The density `dₜ` of `DivisorSumSet (t : ℕ)` is assymptotically equivalent to
...
+      (fun (t : ℕ) ↦ d t) ~[atTop] (fun t ↦ c₁ / (Real.log t) ^ c₂) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/859.lean]:
```suggestion
      (fun (t : ℕ) ↦ d t) ~[atTop] (fun t ↦ c₁ / Real.log t ^ c₂) := by
```

File: FormalConjectures/ErdosProblems/859.lean [hunk 5]
```diff
@@ -37,9 +37,9 @@ The density `dₜ` of `DivisorSumSet (t : ℕ)` is bounded from below by `1 / lo
 from above by `1 / log (t) ^ c₄` for some positive constants `c₃` and `c₄`.
 -/
 @[category research solved, AMS 11]
-theorem erdos_859.variants.erdos_upper_lower_bounds : ∃ᵉ (c₃ > 0) (c₄ > 0) (t₀ : ℕ), ∀ t > t₀,
-    ∃ dₜ : ℝ, ((DivisorSumSet t).HasDensity dₜ) ∧
-    (1 / (Real.log t)^c₃ < dₜ) ∧ (dₜ < 1 / (Real.log t)^c₄) := by
+theorem erdos_859.variants.erdos_upper_lower_bounds : ∃ᵉ (c₃ > (0 : ℝ)) (c₄ > (0 : ℝ)) (t₀ : ℕ),
+    ∀\^f t in atTop, ∃ dₜ : ℝ, (DivisorSumSet t).HasDensity dₜ ∧
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/859.lean]:
```suggestion
    ∀ᶠ t in atTop, ∃ dₜ : ℝ, (DivisorSumSet t).HasDensity dₜ ∧
```

**Review by YaelDillies — APPROVED** [review]
Thanks!
